US07902375B2
Step 1: 2-[2-(1H-Imidazol-4-yl)-ethyl]-isoindole-1,3-dione
N-Carbethoxy phthalimide (2.45 g, 11 mmol) is added over 10 minutes to a vigorously stirred solution of histamine (1.13 g, 1.0 mmol) and Na2CO3 (1.19 g, 1.1 mmol) in water (22 ml). After 1 h the white suspension is removed by filtration, washed with ethanol and dried to afford the titled compound.

reactant | N-Carbethoxy phthalimide | 11 mmol, 2.45 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | histamine | 1.0 mmol, 1.13 g | NCCC1=CNC=N1 | C5H9N3
reactant | Na2CO3 | 1.1 mmol, 1.19 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 22 ml | O | H2O
product | 2-[2-(1H-Imidazol-4-yl)-ethyl]-isoindole-1,3-dione | N1C=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H11N3O2
